US04507141
167 g (1 mol) of 3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one and 140.5 g (1 mol) of 4-chlorobenzaldehyde were dissolved in 700 ml of toluene and 1.2 g (0.02 mol) of glacial acetic acid and 1.8 ml (0.02 mol) of piperidine were added. The reaction mixture was heated for 40 hours to 120° C., while continuously separating off the water of reaction. Thereafter the reaction mixture was concentrated in vacuo and the oil which remained was distilled (boiling range 130°-160° C./0.04 mm Hg). The distillate was stirred with ethanol, whereupon crystals separated out. These were filtered off and dried. 35 g (12% of theory) of 1-(4-chlorophenyl)-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent-1-en-3-one (E isomer) of melting point 110° C. were thus obtained.

reactant | 3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 1 mol, 167 g | CC(C(CN1N=CN=C1)=O)(C)C | C8H13N3O
reactant | 4-chlorobenzaldehyde | 1 mol, 140.5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | acetic acid | 0.02 mol, 1.2 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.02 mol, 1.8 ml | N1CCCCC1 | C5H11N
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlorophenyl)-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent-1-en-3-one | 35 g, 12% | ClC1=CC=C(C=C1)C=C(C(C(C)(C)C)=O)N1N=CN=C1 | C15H16ClN3O
